US08541445B2
Step 3: 2-(4-(1H-pyrazolo[3,4-b]pyridin-4-yl)-1H-pyrazol-1-yl)butanenitrile
A solution of diisopropylamine (229.8 mg, 318.3 μL, 2.271 mmol) in THF (10 mL) at 0° C. was treated with butyllithium (698.8 μL of 2.5 M, 1.747 mmol) and then allowed to cool to −78° C. This was then added dropwise to a solution of 2-[4-(1-tritylpyrazolo[5,4-b]pyridin-4-yl)pyrazol-1-yl]acetonitrile (815 mg, 1.747 mmol) over a period of 20 minutes. After a further 30 minutes the reaction was treated with iodoethane (544.9 mg, 279.4 μL, 3.494 mmol) at −78° C. and the ice bath removed. The reaction was allowed to stir for 1.5 hours and then treated with brine/EtOAc and the two layers separated. The organics were dried (MgSO4), filtered and concentrated. The resultant residue was taken up in DCM (12 mL) and treated with triethylsilane (4 mL) and TFA (0.5 mL) and allowed to stir at RT for 2 hours. The reaction was concentrated in vacuo and purified by column chromatography (10% MeOH/DCM) to give the product as a pure white solid (252 mg, 57% Yield). 1H NMR (DMSO, 400 MHz) δ 0.95 (3H, t), 2.23-2.28 (2H, m), 5.79 (1H, t), 7.46 (1H, d), 8.46 (1H, s), 8.48 (1H, d), 8.52 (1H, d), 8.83 (1H, s), 13.73 (1H, br s); MS (ES+) 253.09

reactant | diisopropylamine | 2.271 mmol, 318.3 μL, 229.8 mg | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.747 mmol, 2.5 M, 698.8 μL | C(CCC)[Li]
reactant | 2-[4-(1-tritylpyrazolo[5,4-b]pyridin-4-yl)pyrazol-1-yl]acetonitrile | 1.747 mmol, 815 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC=2C1=NC=CC2C=2C=NN(C2)CC#N | C30H22N6
reactant | iodoethane | 3.494 mmol, 279.4 μL, 544.9 mg | ICC | C2H5I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-(1H-pyrazolo[3,4-b]pyridin-4-yl)-1H-pyrazol-1-yl)butanenitrile | 252 mg, 57% Yield | N1N=CC=2C1=NC=CC2C=2C=NN(C2)C(C#N)CC | C13H12N6
